US04873248
6-Methyl-2-picoline amidine hydrochloride (5 g) was dissolved in a solution of sodium methoxide in ethanol prepared from ethanol (50 ml) and metallic sodium (0.8 g). Ethyl o-chlorobenzoyl acetate (7.3 g) was added to the solution obtained above, then the mixture was heated uner reflux for 1 hour. After the reaction mixture was cooled to room temperature, it was neutralized with acetic acid and then concentrated under reduced pressure. The residue obtained was washed with water and n-hexane to obtain 4-o-chlorophenyl-6-hydroxy-2-(6-methyl-2-pyridinyl)pyrimidine (7 g).

reactant | 6-Methyl-2-picoline amidine hydrochloride | 5 g | Cl.CC1=CC=CC(=N1)C(=N)N
reactant | sodium | 0.8 g | [Na] | Na
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | ethanol | C(C)O | C2H6O
reactant | ethanol | 50 ml | C(C)O | C2H6O
solvent | sodium methoxide | C[O-].[Na+]
product | 4-o-chlorophenyl-6-hydroxy-2-(6-methyl-2-pyridinyl)pyrimidine | 7 g | ClC1=C(C=CC=C1)C1=NC(=NC(=C1)O)C1=NC(=CC=C1)C | C16H12ClN3O
